US09422290B2
(6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl)-(1-methyl-piperidin-4-yl)-amine
(6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl)-piperidin-4-yl-amine (0.26 g; 0.97 mmol) was dissolved in 5.0 ml THF. Acetic acid (0.11 ml; 1.94 mmol), formaldehyde 37% in water (0.29 ml; 3.89 mmol) and STAB (0.27 g; 1.27 mmol) were added and stirred at ambient temperature for 1 hour. The crude material was purified by using reversed phase chromatography under basic conditions.

reactant | (6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl)-piperidin-4-yl-amine | 0.97 mmol, 0.26 g | ClC=1C=C(C=2N(N1)C(=NN2)C)NC2CCNCC2 | C11H15ClN6
reactant | Acetic acid | 1.94 mmol, 0.11 ml | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
reactant | water | 3.89 mmol, 0.29 ml | O | H2O
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | (6-Chloro-3-methyl-[1,2,4]triazolo[4,3-b]pyridazin-8-yl)-(1-methyl-piperidin-4-yl)-amine | ClC=1C=C(C=2N(N1)C(=NN2)C)NC2CCN(CC2)C | C12H17ClN6
